US09144557B2
A 1.0 M aqueous potassium carbonate solution (9.96 mL, 9.96 mmol) was added to a mixture of 3-bromo-1-(phenylsulfonyl)-1H-indol-6-amine (1.00 g, 2.84 mmol), (4-nitrophenyl)boronic acid (1.19 g, 7.12 mmol) and palladium tetrakis(triphenylphosphine) (164 mg, 0.14 mmol) in tetrahydrofuran (13.7 mL). The biphasic mixture was heated in a microwave at 130° C. for 10 min and was then diluted with a saturated solution of sodium bicarbonate (10.0 mL) and ethyl acetate (10.0 mL). The organic layer was washed with a saturated solution of sodium bicarbonate (2×10.0 mL), and the combined aqueous layers were extracted with ethyl acetate (3×30.0 mL). The combined organic phases were dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by flash chromatography (10-25-50-71% ethyl acetate/hexane) to give an orange solid for 3-(4-nitrophenyl)-1-(phenylsulfonyl)-1H-indol-6-amine (726 mg, 1.85 mmol, 65%).

reactant | potassium carbonate | 9.96 mmol, 1.0 M, 9.96 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-(phenylsulfonyl)-1H-indol-6-amine | 2.84 mmol, 1.00 g | BrC1=CN(C2=CC(=CC=C12)N)S(=O)(=O)C1=CC=CC=C1 | C14H11BrN2O2S
reactant | (4-nitrophenyl)boronic acid | 7.12 mmol, 1.19 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
solvent | tetrahydrofuran | 13.7 mL | O1CCCC1 | C4H8O
solvent | sodium bicarbonate | 10.0 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium tetrakis(triphenylphosphine) | 0.14 mmol, 164 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-(4-nitrophenyl)-1-(phenylsulfonyl)-1H-indol-6-amine | 1.85 mmol, 726 mg, 65% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)N)S(=O)(=O)C1=CC=CC=C1 | C20H15N3O4S
